US08058299B2
To a mixture of 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid 4-nitro-phenyl ester (150 mg, 0.26 mmol) in 1-methyl-pyrrolidin-2-one (10 mL) at room temperature was added piperidin-4-yl-acetic acid methyl ester (0.04 g, 0.25 mmol) followed by N,N-diisopropylethylamine (0.14 mL, 0.8 mmol). The mixture was stirred in a 90° C. oil bath overnight. The mixture was blown to dryness and the crude was purified by flash chromatography (Merck silica gel 60, 230-400 mesh, gradient elution with 0%-60% ethyl acetate in hexane) to give [1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidin-4-yl]-acetic acid methyl ester (70 mg). LCMS calcd for C31H33F3N4O5 (m/e) 598, obsd 599 (M+H).

reactant | 4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carboxylic acid 4-nitro-phenyl ester | 0.26 mmol, 150 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C29H23F3N4O6
reactant | piperidin-4-yl-acetic acid methyl ester | 0.25 mmol, 0.04 g | COC(CC1CCNCC1)=O | C8H15NO2
reactant | N,N-diisopropylethylamine | 0.8 mmol, 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-methyl-pyrrolidin-2-one | 10 mL | CN1C(CCC1)=O | C5H9NO
product | [1-(4-{4-[(2-phenyl-5-trifluoromethyl-oxazole-4-carbonyl)-amino]-phenyl}-piperidine-1-carbonyl)-piperidin-4-yl]-acetic acid methyl ester | 70 mg | COC(CC1CCN(CC1)C(=O)N1CCC(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)=O | C31H33F3N4O5
